US04514400
90.8 g of 2-oxo-5-(4-pyrimidinyl)nicotinic acid was mixed with 900 ml of quinoline and then heated to reflux overnight. The mixture was then cooled and poured into 1800 ml of anhydrous ether. The mixture was stirred for 30 minutes, filtered and the solid was washed with 2 liters of ether. The solid was dried, recrystallized in 100 ml of hot dimethylformamide and dried to yield 5-(4-pyrimidyl)-2(1H)pyridone m.p. 250° C.

reactant | 2-oxo-5-(4-pyrimidinyl)nicotinic acid | 90.8 g | O=C1C(C(=O)O)C=C(C=N1)C1=NC=NC=C1 | C10H7N3O3
reactant | quinoline | 900 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
solvent | ether | 1800 ml | CCOCC | C4H10O
product | 5-(4-pyrimidyl)-2(1H)pyridone | N1=CN=C(C=C1)C=1C=CC(NC1)=O | C9H7N3O
